US04801593
Thioflavanone (10.0 g) was dissolved in acetic acid (300 ml) and concentrated hydrochloric acid (30 ml) and added to zinc amalgam prepared from zinc powder (100 g.) and mercuric chloride (8.0 g.) The reaction mixture was stirred at room temperature for 3 hr., then allowed to stand overnight. The reaction mixture was filtered and the filtrate diluted with water and extracted with toluene. The toluene extract was washed with water, dried and evaporated. Trituration of the residue with ethanol gave, on filtration, thioflavan (2.55 g) m.pt. 45°-49°-Recrystallisation of a sample from ethanol gave pure thioflavan m.pt 55°-56°.

reactant | Thioflavanone | 10.0 g | O1C(CC(=S)C2=CC=CC=C12)C1=CC=CC=C1 | C15H12OS
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 100 g | [Zn] | Zn
product | thioflavan | 2.55 g | S1C(CCC2=CC=CC=C12)C1=CC=CC=C1 | C15H14S
